US09301526B2
Step 2: Preparation of 2-(3,5-dichloropyridin-2-yl)-2,2-difluoroethanol (Int-9)
To a solution of 10 g (37 mmol) of ethyl (3,5-dichloropyridin-2-yl)(difluoro)acetate (Int-7) in 60 mL of ethanol, were added portionwise at 0° C., 1.05 g (27.7 mmol) of sodium borohydride. The reaction mixture was stirred below 10° C. for 2 hours. 30 mL of 1 N HCl were then slowly added followed by 500 mL of water. The aequeous phase was extracted three times by 300 mL of ethyl acetate and the organic phase was successively washed with brine, water and dried over magnesium sulfate. After evaporation of the solvent under vacuum 8.5 g of yellow oil were obtained. After trituration in diisopropyl ether and filtration 6.8 g (80%) of 2-(3,5-dichloropyridin-2-yl)-2,2-difluoroethanol (Int-9) were obtained as a white solid. Mp (melting point)=56° C. (M+1)=228. 19F-NMR (235 MHz, CDCl3) δ (ppm): −105.85 (CF2).

reactant | ethyl (3,5-dichloropyridin-2-yl)(difluoro)acetate | 37 mmol, 10 g | ClC=1C(=NC=C(C1)Cl)C(C(=O)OCC)(F)F | C9H7Cl2F2NO2
reactant | sodium borohydride | 27.7 mmol, 1.05 g | [BH4-].[Na+]
reactant | HCl | 1 N, 30 mL | Cl | ClH
reactant | water | 500 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2-(3,5-dichloropyridin-2-yl)-2,2-difluoroethanol | ClC=1C(=NC=C(C1)Cl)C(CO)(F)F | C7H5Cl2F2NO
